USH0001401
Step A: Preparation of 2-Bromo-(Trimethylsilyloxymethyl)benzene
To a solution of 2-bromobenzyl alcohol (4.86 g, 26 mmol) in CH2Cl2 (80 mL) cooled to 0° C. was added Me3SiCl (3.12 g, 28.6 mmol), triethylamine (4.34 g, 31.2 mmol) and 4-N,N-dimethylaminopyridine (0.32 g, 2.6 mmol). The cooling bath was removed and the mixture was allowed to warm to room temperature and stirred whereupon reaction was determined by thin layer chromatography to be completed after 2 h. The solution was washed with 1N aqueous HCl (30 mL) H2O (30 mL) and saturated aqueous NaHCO3 (30 mL). The organic phase was dried (MgSO4) and concentrated under vacuum to provide a brown oil, 6.67 g. Purification by column chromatography (80 g SiO2 eluted with 10% diethyl ether/hexane) afforded the product of Step A as a clear, yellow oil, 5.94 g, (88%); IR (neat): 2956, 2897, 1441, 1251 cm-1 ; 1H NMR (CDCl3); δ7.5 (dd, 2h), 7.3 (t,1H), 7.1 (t,1H), 4.7 (s,2H), 0.2 (s,9H).

reactant | 2-bromobenzyl alcohol | 26 mmol, 4.86 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | Me3SiCl | 28.6 mmol, 3.12 g | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | triethylamine | 31.2 mmol, 4.34 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-(Trimethylsilyloxymethyl)benzene | BrC1=C(C=CC=C1)CO[Si](C)(C)C | C10H15BrOSi
